US08563505B2
Sodium hydride (60% in oil) (0.08 g, 1.925 mmol) was added to a solution of (2S,4R)-2-methyl 1-(2-(trimethylsilyl)ethyl) 4-hydroxy-4-(2′-vinylbiphenyl-4-yl)pyrrolidine-1,2-dicarboxylate (0.5 g, 1.069 mmol) and methyl iodide (0.12 mL, 1.925 mmol) at 0° C. in DMF. This was stirred at 0° C. for 3 hrs. The reaction was then quenched with a saturated NH4Cl solution and ether. The ether layer was washed with brine, dried over MgSO4, filtered and evaporated to give crude material. The crude material was purified by flash chromatography on the Biotage (20-40% EtOAc in hexanes) to give (2S,4R)-2-methyl 1-(2-(trimethylsilyl)ethyl) 4-methoxy-4-(2′-vinylbiphenyl-4-yl)pyrrolidine-1,2-dicarboxylate (160 mg, 31% yield) as a clear oil. LCMS: rt=2.11 min. [M+Na]+=504; Phenomenex-Luna C-18 (5μ) (3.0×50 mm); Solvent A=10% acetonitrile—90% water—0.1% TFA, Solvent B=90% acetonitrile—10% water—0.1% TFA; gradient 0% to 100% solvent B over 2 min. and then hold for 1 min.; 4 mL/min; inj. vol.=5 uL; wavelength=220. 1H NMR (500 MHz, CHLOROFORM-d) δ ppm −0.04-0.13 (m, 9H) 0.95-1.02 (m, 1H) 1.03-1.08 (m, 1H) 2.55 (dd, J=13.12, 8.85 Hz, 1H) 2.76-2.89 (m, 1H) 3.00 (s, 3H) 3.68-3.77 (m, 1H) 3.78 (s, 3H) 3.96-4.09 (m, 1H) 4.20-4.31 (m, 2H) 4.64 (dd, J=8.70, 1.98 Hz, 1H) 5.22 (d, J=11.90 Hz, 1H) 5.72 (d, J=17.40 Hz, 1H) 6.69 (ddd, J=17.40, 10.99, 2.44 Hz, 1H) 7.29 (d, J=7.32 Hz, 1H) 7.32-7.45 (m, 6H) 7.66 (d, J=7.32 Hz, 1H).

reactant | Sodium hydride | 1.925 mmol, 0.08 g | [H-].[Na+]
reactant | (2S,4R)-2-methyl 1-(2-(trimethylsilyl)ethyl) 4-hydroxy-4-(2′-vinylbiphenyl-4-yl)pyrrolidine-1,2-dicarboxylate | 1.069 mmol, 0.5 g | O[C@]1(C[C@H](N(C1)C(=O)OCC[Si](C)(C)C)C(=O)OC)C1=CC=C(C=C1)C1=C(C=CC=C1)C=C | C26H33NO5Si
reactant | methyl iodide | 1.925 mmol, 0.12 mL | CI | CH3I
solvent | DMF | CN(C)C=O | C3H7NO
product | (2S,4R)-2-methyl 1-(2-(trimethylsilyl)ethyl) 4-methoxy-4-(2′-vinylbiphenyl-4-yl)pyrrolidine-1,2-dicarboxylate | 160 mg, 31% yield | CO[C@]1(C[C@H](N(C1)C(=O)OCC[Si](C)(C)C)C(=O)OC)C1=CC=C(C=C1)C1=C(C=CC=C1)C=C | C27H35NO5Si
